US07268159B2
Synthesis of 1-[4-(1H-pyrrol-1-yl)phenyl]-1H-indole-2-carboxylic acid
A solution of 1-(4-aminophenyl)-1H-indole-2-carboxylic acid (0.4 g, 1.59 mmol) and 2,5-dimethoxytetrahydrofuran (0.50 g, 3.78 mmol) in 15 mL of glacial acetic acid was heated at 90° C. for 1.5 hours. After removing the solvent the residue was purified by by semi-preparative HPLC to afford the title compound (0.095 mg, 20%) as a beige solid: 1H NMR (DMSO-d6) δ 6.32 (s, 2H), 7.08 (d, J=8.4 Hz, 1H), 7.15-7.25 (m, 1H), 7.25-7.35 (m, 1H), 7.40-7.55 (m, 5H), 7.60-7.70 (m, 3H), 12.82 (br s, 1H); MS (ESI) m/z 303 (MH+); MS (ESI) m/z 301 ([M−H]−); HRMS calcd for C19H15N2O2: 303.1122; found (ESI+): 303.1124; Anal. calcd for C19H14N2O2.0.1H2O: C, 75.0; H, 4.71; N, 9.21. Found: C, 74.90; H, 4.42; N, 9.33.

reactant | 1-(4-aminophenyl)-1H-indole-2-carboxylic acid | 1.59 mmol, 0.4 g | NC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C(=O)O | C15H12N2O2
reactant | 2,5-dimethoxytetrahydrofuran | 3.78 mmol, 0.50 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-[4-(1H-pyrrol-1-yl)phenyl]-1H-indole-2-carboxylic acid | 0.095 mg, 20% | N1(C=CC=C1)C1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C(=O)O | C19H14N2O2
